US05152918
DMSO (300 ml) and KOH (38.0 g) were added to 1,1-bis(4-hydroxyphenyl)-4-(trans-4-n-propylcyclohexyl)cyclohexane (110.6 g) obtained in the first step, followed by dissolving these together on heating to 65° C., dropwise adding to the solution, a solution of p-chloronitrobenzene (97.8 g) in DMSO (500 ml) at 65° C., reacting the mixture, aging for 5 hours, cooling down to room temperature after completion of the reaction, extracting with dichloromethane, washing with lN-NaOH aqueous solution and further with saturated NaCl aqueous solution till the aqueous solution became neutral, drying over MgSO4, treating by alumina column, distilling off the resulting eluate and recrystallizing the resulting concentrate from a mixed solvent of toluene-acetone to obtain pale yellow crystals of 1,1-bis[4-(4-nitrophenoxy)phenyl]-4-(trans-4-n-propylcyclohexyl)cyclohexane (136.1 g).

reactant | KOH | 38.0 g | [OH-].[K+]
reactant | 1,1-bis(4-hydroxyphenyl)-4-(trans-4-n-propylcyclohexyl)cyclohexane | 110.6 g | OC1=CC=C(C=C1)C1(CCC(CC1)[C@@H]1CC[C@H](CC1)CCC)C1=CC=C(C=C1)O | C27H36O2
reactant | p-chloronitrobenzene | 97.8 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
solvent | DMSO | 500 ml | CS(=O)C | C2H6OS
solvent | DMSO | 300 ml | CS(=O)C | C2H6OS
product | 1,1-bis[4-(4-nitrophenoxy)phenyl]-4-(trans-4-n-propylcyclohexyl)cyclohexane | 136.1 g | [N+](=O)([O-])C1=CC=C(OC2=CC=C(C=C2)C2(CCC(CC2)[C@@H]2CC[C@H](CC2)CCC)C2=CC=C(C=C2)OC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C39H42N2O6
